US05374641
To 0.60 g of 4-[1-(4-chlorobenzenesulfonamido)-3-(3-pyridyl)-2-propyl]-α-methylcinnamic acid thionyl chloride and stirred for one hour. To the mixture was added 5 ml of ethanol at 0° C., and stirred for three hours, followed by dropwise addition of saturated aqueous sodium hydrogencarbonate and extraction with ethyl acetate and then further washing in saturated aqueous sodium chloride solution, and dried over magnesium sulfate to distill off the solvent. The residue obtained was subjected to chromatography on a silica gel column, and from a fraction eluted with methanol-methylene chloride (5:95 v/v) was obtained 0.49 g of ethyl 4-[1-(4-chlorobenzenesulfonamido)-3-(3-pyridyl)-2-propyl]-α-methylcinnamate.

reactant | 4-[1-(4-chlorobenzenesulfonamido)-3-(3-pyridyl)-2-propyl]-α-methylcinnamic acid thionyl chloride | 0.60 g | S(=O)(Cl)Cl.ClC1=CC=C(C=C1)S(=O)(=O)NCC(CC=1C=NC=CC1)C1=CC=C(C=C(C(=O)O)C)C=C1
reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 4-[1-(4-chlorobenzenesulfonamido)-3-(3-pyridyl)-2-propyl]-α-methylcinnamate | 0.49 g | ClC1=CC=C(C=C1)S(=O)(=O)NCC(CC=1C=NC=CC1)C1=CC=C(C=C(C(=O)OCC)C)C=C1 | C26H27ClN2O4S
